US06265415B1
Synthesis of 3-carboethoxy-2,6-dimethyl-8-(2,6-dimethylbenzyloxy)imidazo[1,2-a]pyridine
A mixture of 2-amino-3-(2,6-dimethylbenzyloxy)-5-methylpyridine (1.0 g, 4.13 mmol) and ethyl 2-chloroacetoacetate (0.79 g, 4.55 mmol) in 20 ml abs. ethanol was refluxed for 19 h. More ethyl 2-chloroacetoacetate (0.25 g) was added. The reaction mixture was refluxed for additional 23 h. The solvent was evaporated in vacuo and the residue was dissolved in methylene chloride and washed with aqueous NaHCO3. The organic layer was dried and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel, using methylene chloride:ethyl acetate (100:10) as eluent to give 0.68 g (47%) of the title compound.

reactant | 2-amino-3-(2,6-dimethylbenzyloxy)-5-methylpyridine | 4.13 mmol, 1.0 g | NC1=NC=C(C=C1OCC1=C(C=CC=C1C)C)C | C15H18N2O
reactant | ethyl 2-chloroacetoacetate | 4.55 mmol, 0.79 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | ethyl 2-chloroacetoacetate | 0.25 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | C(C)O | C2H6O
product | 3-carboethoxy-2,6-dimethyl-8-(2,6-dimethylbenzyloxy)imidazo[1,2-a]pyridine | 0.68 g, 47% | C(=O)(OCC)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2C)C)C)C | C21H24N2O3
